US07767677B2
To a solid 6-pyridin-2-yl-2H-pyridazin-3-one (0.500 g, 2.900 mmol) was added 20 mL of POCl3 and the mixture was stirred at reflux for 4 hours. Excess POCl3 was removed in vacuo. The residue was poured on ice and neutralized using NaHCO3. The product was extracted with ether and ethyl acetate. The combined organic extracts were dried over MaSO4 and evaporated. The residue was purified by column chromatography to afford of 3-chloro-6-pyridin-2-ylpyridazine in 45% yield (0.250 g).

reactant | 6-pyridin-2-yl-2H-pyridazin-3-one | 2.900 mmol, 0.500 g | N1=C(C=CC=C1)C=1C=CC(NN1)=O | C9H7N3O
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-pyridin-2-ylpyridazine | 45% yield | ClC=1N=NC(=CC1)C1=NC=CC=C1 | C9H6ClN3
